US07348359B2
To a mixture of 57 mg (0.049 mmol, 5%) of Pd(PPh3)4, 362 mg (1.26 mmol) of 2-acetyl-7-bromobenzo[b]furan and 2.52 mmol of 2-propoxy-3-tert-butyl-5-ethyl phenylboronic acid in 10 mL of toluene, and 5 mL of ethanol was added 1.3 mL of a 2N Na2CO3 aqueous solution. The mixture was heated to reflux for 3 hours and after cooling (room temperature) extracted with ethyl acetate. The organic layer was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was filtrated over a short silica plug (eluent: ethyl acetate/hexane: 10/90) and recrystallized from hexane to afford 2-acetyl-7-(2-propoxy-3-tert-butyl-5-ethylphenyl)benzo[b]furan as a white solid.

reactant | 2-acetyl-7-bromobenzo[b]furan | 1.26 mmol, 362 mg | C(C)(=O)C1=CC2=C(O1)C(=CC=C2)Br | C10H7BrO2
reactant | 2-propoxy-3-tert-butyl-5-ethyl phenylboronic acid | 2.52 mmol | C(CC)OC1=C(C=C(C=C1C(C)(C)C)CC)B(O)O | C15H25BO3
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.049 mmol, 57 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-acetyl-7-(2-propoxy-3-tert-butyl-5-ethylphenyl)benzo[b]furan | C(C)(=O)C1=CC2=C(O1)C(=CC=C2)C2=C(C(=CC(=C2)CC)C(C)(C)C)OCCC | C25H30O3
